US04374843
2.40 g (19.3 mmol) of 1-(2-methyl-4-imidazolyl) ethanone was dissolved in 30 ml of 48% hydrogen bromide. To the stirred solution at 25° was added over a 5 minute period 3.36 g (21 mmol) of bromine dissolved in 5 ml 48% hydrogen bromide. The reaction was heated to 70° for 2.5 hours and then concentrated in vacuo to a dark oil. A mixture of isopropyl alcohol/ether was added and trituration of the oil gave a solid. This was collected by filtration and washed with ether to give 2.8 g (51%) of 1-(2-methyl-4-imidazolyl)-2-bromoethanone hydrobromide, mp 181° (dec.); nmr (DMSO-d6) (δ): 8.71 (s, 1H); 4.77 (s, 2H); 2.63 (s, 3H).

reactant | 1-(2-methyl-4-imidazolyl) ethanone | 19.3 mmol, 2.40 g | CC=1NC=C(N1)C(C)=O | C6H8N2O
reactant | bromine | 21 mmol, 3.36 g | BrBr | Br2
solvent | hydrogen bromide | 30 ml | Br | BrH
solvent | hydrogen bromide | 5 ml | Br | BrH
product | 1-(2-methyl-4-imidazolyl)-2-bromoethanone hydrobromide | 2.8 g, 51% | Br.CC=1NC=C(N1)C(CBr)=O | InChI=1S/C6H7BrN2O.BrH/c1-4-8-3-5(9-4)6(10)2-7;/h3H,2H2,1H3,(H,8,9);1H
